US04013666
To a suspension of 6 parts of 3,4-dihydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methylene]isoquinoline hydrochloride in 40 parts of pyridine is added 6 parts of cyclopropanecarbonyl chloride. The resultant mixture is stirred at room temperatures for 18 hours, then poured into 500 parts of water. The mixture thus obtained is extracted with chloroform. The chloroform extract is washed with 5% hydrochloric acid, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The residue is crystallized from a mixture of ethyl acetate and dichloromethane to give (Z)-2-cyclopropylcarbonyl-1,2,3,4-tetrahydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methylene]isoquinoline melting at 148°-151°.

reactant | 3,4-dihydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methylene]isoquinoline hydrochloride | Cl.COC=1C=C2CCNC(C2=CC1OC)=CC1=CC(=C(C=C1)OC)OC
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | water | O | H2O
product | (Z)-2-cyclopropylcarbonyl-1,2,3,4-tetrahydro-6,7-dimethoxy-1-[(3,4-dimethoxyphenyl)methylene]isoquinoline | C1(CC1)C(=O)N1\C(\C2=CC(=C(C=C2CC1)OC)OC)=C/C1=CC(=C(C=C1)OC)OC | C24H27NO5
